Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
altered mental status
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ woman with a history of
HTN & HLD, who was transferred from ___ for
management of a large left IPH.

Per review of the record, patient was speaking on the phone in
her usual state of health until 11AM on ___ when her husband
noted that she was mute, sitting on the couch attempting to get
up but only moving her left side. She initially presented to
___ where a CT head showed a large left-sided
intraparenchymal hemorrhage with midline shift. Per the family's
wishes, the patient was not intubated. Patient was transferred 
to
___ for further evaluation.

On arrival to the ___ ER:
- VS: AF BP 179/80 58 20 93%RA
- Labs: CBC nl, coags nl, serum tox neg, VBG 7.35/___
- Neurology evaluated the patient in the ER. The patient was
noted to have left gaze deviation, blown right pupil, 
right-sided
flaccid paralysis and spontaneous respirations. Per neurology
review, the ___ showed left IPH mainly involving
temporal/parietal lobe with midline shift and no signs of
imminent uncal herniation.
Patient has evidence of ___ with HTN and bradycardia, no
apnea as yet etco2 35. GCS 6. There is evidence of blown right
pupil with fixed left gaze and right sided flaccid paralysis.
Discussed with family regarding GOC. They decided to make 
patient
CMO. 
- There was a family meeting in the ER where neurology discussed
the potential treatment options and prognosis. The family
expressed that ___ would wish to die with dignity and pain
free. After extensive discussion, the family unanimously decided
to proceed with comfort measures only.
- The patient is now being admitted for comfort-measures only
care.

On arrival to the floor, the patient is breathing comfortably
with intermittent episodes of apnea. She is not arousable and
unable to answer questions.

Review of systems: Patient is unable to report symptoms.

 
Past Medical History:
Hypertension
Hyperlipidemia
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
Vital Signs: not checking due to comfort measures only
GEN: Not arousable, breathing comfortably, does not appear to be
in distress
HEENT: no scleral icterus, eyes closed
CV: RRR nl S1 S2
PULM: rhonchorous breath sounds diffusely in anterior lung 
fields
ABDOMEN: soft NTND
SKIN: no jaundice or rashes

DEATH PHYSICAL EXAM
===================
HEENT: Pupils fixed and dilated
CV: Heart sounds not auscultated
Lungs: Lung sounds not auscultated
Ext: Radial pulses bilaterally not palpable
Did not withdraw to painful stimuli
 
Pertinent Results:
ADMISSION AND INTERVAL LABS
=============================
___ 02:10PM BLOOD WBC-8.7 RBC-4.37 Hgb-13.4 Hct-40.7 MCV-93 
MCH-30.7 MCHC-32.9 RDW-12.9 RDWSD-43.9 Plt ___
___ 02:10PM BLOOD Neuts-74.4* Lymphs-12.4* Monos-9.0 
Eos-2.4 Baso-0.9 Im ___ AbsNeut-6.50* AbsLymp-1.08* 
AbsMono-0.79 AbsEos-0.21 AbsBaso-0.08
___ 02:10PM BLOOD ___ PTT-25.0 ___
___ 02:10PM BLOOD Glucose-133* UreaN-11 Creat-0.6 Na-136 
K-4.7 Cl-92* HCO3-31 AnGap-13
___ 02:10PM BLOOD Calcium-8.7 Phos-3.1 Mg-1.4*
___ 02:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 02:14PM BLOOD ___ pO2-41* pCO2-63* pH-7.36 
calTCO2-37* Base XS-7
 
Brief Hospital Course:
Ms. ___ is a ___ woman with a history of 
HTN & HLD, who was transferred from ___ for 
management of a large left IPH

# Intraparenchymal hemorrhage
# CMO care. Patient suffered devastating IPH on the morning of 
___. After discussion with her family about patient's 
clinical condition, poor prognosis, and available treatment 
options, the patient's family was unanimous in their decision to
make her comfort measures only at this time and believes that 
she would wish to die in peace, without pain, with dignity. 
Family in agreement with stopping all medical interventions or 
procedures that would artificially prolong her life, and they 
agree that this is what she would want in this situation. 
DNR/DNI/CMO was confirmed with daughter/HCP ___. Patient 
was admitted on ___ and passed away comfortably on morning of 
___ with family at the bedside. Prior to passing, she was 
treated with morphine for pain, Ativan for anxiety, and 
glycopyrrolate for secretions. 

 
Medications on Admission:
Metoprolol
Atorvastatin
 
Discharge Medications:
Patient expired on ___
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Patient expired on ___
 
Discharge Condition:
Patient expired on ___
 
Discharge Instructions:
Patient expired on ___
 
Followup Instructions:
___